US06479486B2
(1R*,2R*,5S*,6R*)-8-Benzyl-2′,5′-dihydro-4′-(2-methoxy-5-trifluoromethoxyphenyl)-1-phenyl-6-phenylsulfonylspiro[8-azabicyclo[3.2.1]octane-2,2′-furan]
Tetrakis(triphenylphosphine) palladium(0) (20 mg, 0,017 mmol) was added to a degassed suspension of (1R*,2R*,5S*,6R*)-8-Benzyl-2′,5′-dihydro-1-phenyl-6-phenylsulfonyl-4′-tributylstannylspiro[8-azabicyclo[3.2.1]octane-2,2′-furan](Description 18; 150 mg, 0.2 mmol), lithium chloride (50 mg, 1.2 mmol), 2-methoxy-5-trifluoromethoxyiodobenzene (100 mg, 0.3 mmol) and copper(I) iodide (10 mg, 0.05 mmol) in toluene (10 ml). The mixture was heated to reflux for 18 hours. On cooling the mixture was diluted with ethyl acetate (50 ml) and filtered through Celite™. The filtrate was washed with water (25 ml) then dried (MgSO4), filtered and concentrated in vacuo. The residue was chromatographed on silica gel eluting with 10, 20 and 30% ethyl acetate/iso-hexanes to give the title compound (115 mg, 87%).

reactant | (1R*,2R*,5S*,6R*)-8-Benzyl-2′,5′-dihydro-1-phenyl-6-phenylsulfonyl-4′-tributylstannylspiro[8-azabicyclo[3.2.1]octane-2,2′-furan] | 0.2 mmol, 150 mg | C(C1=CC=CC=C1)N1[C@]2(C[C@H]([C@@H]1CC[C@]21OCC(=C1)[Sn](CCCC)(CCCC)CCCC)S(=O)(=O)C1=CC=CC=C1)C1=CC=CC=C1
reactant | lithium chloride | 1.2 mmol, 50 mg | [Cl-].[Li+]
reactant | 2-methoxy-5-trifluoromethoxyiodobenzene | 0.3 mmol, 100 mg | COC1=C(C=C(C=C1)OC(F)(F)F)I | C8H6F3IO2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | Tetrakis(triphenylphosphine) palladium(0) | 0,017 mmol, 20 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | copper(I) iodide | 0.05 mmol, 10 mg | [Cu]I
product | (1R*,2R*,5S*,6R*)-8-Benzyl-2′,5′-dihydro-4′-(2-methoxy-5-trifluoromethoxyphenyl)-1-phenyl-6-phenylsulfonylspiro[8-azabicyclo[3.2.1]octane-2,2′-furan] | 115 mg, 87% | C(C1=CC=CC=C1)N1[C@]2(C[C@H]([C@@H]1CC[C@]21OCC(=C1)C1=C(C=CC(=C1)OC(F)(F)F)OC)S(=O)(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C37H34F3NO5S
